US07572921B2
1-(3,5-dichloro-benzyl)-2-nitro-1H-imidazole was dissolved in a mixture of ethanol and acetic acid, and Fe was added. The mixture was heated to 80° C. for 20 min. During this period of time, the mixture turned into reddish brown in color and then grayish white precipitate was formed. The reaction mixture was cooled to room temperature and diluted with EtOAc. The slurry was filtered through a pad of diatomaceous earth and washed with EtOAc. The filtrate was basified using 2N NaOH solution until pH ˜8. The organic phase was then separated and the aqueous layer was extracted with EtOAc. The combined EtOAc layer was dried over Na2SO4 and concentrated to afford 1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylamine as a white solid (80 mg, 90%).

reactant | 1-(3,5-dichloro-benzyl)-2-nitro-1H-imidazole | ClC=1C=C(CN2C(=NC=C2)[N+](=O)[O-])C=C(C1)Cl | C10H7Cl2N3O2
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Fe | [Fe] | Fe
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylamine | 80 mg, 90% | ClC=1C=C(CN2C(=NC=C2)N)C=C(C1)Cl | C10H9Cl2N3
